US08486967B2
a) (Z)-Phenyl N′-cyano-N-(3,4-difluorophenyl)carbamimidate
To a solution of 3,4-difluoroaniline (646 mg, 5 mmol) in isopropanol (10 mL) was added diphenyl cyanocarbonimidate (1.19 g, 5 mmol) and the suspension was stirred at room temperature over night. The precipitate was filtered off, washed with isopropanol and dried under reduced pressure to yield the title compound as a white solid (1.18 g, 86%).

reactant | 3,4-difluoroaniline | 5 mmol, 646 mg | FC=1C=C(N)C=CC1F | C6H5F2N
reactant | diphenyl cyanocarbonimidate | 5 mmol, 1.19 g | C1=CC=C(C=C1)OC(=NC#N)OC2=CC=CC=C2 | C14H10N2O2
solvent | isopropanol | 10 mL | C(C)(C)O | C3H8O
product | (Z)-Phenyl N′-cyano-N-(3,4-difluorophenyl)carbamimidate | 1.18 g, 86% | C(#N)\N=C(\NC1=CC(=C(C=C1)F)F)/OC1=CC=CC=C1 | C14H9F2N3O
